US07863302B2
4-Bromomethyl-5-cyclopropyl-3-(2-trifluoromethoxy-phenyl)-isoxazole
Triphenylphosphine (1.1 equiv., 51.5 mmoles, 13.5 g) is added in small portions to a 0° C. solution of [5-Cyclopropyl-3-(2-trifluoromethoxy-phenyl)-isoxazol-4-yl]-methanol and carbon tetrabromide (1.1 equiv, 51.5 mmoles, 17.1 g) in dichloromethane (187.1 mL). The reaction mixture is stirred at ambient temperature for 15 h and concentrated under reduced pressure. The crude residue is purified via silica gel chromatography eluting with 5:1 hexanes/ethyl acetate) to afford the title compound (15 g, 88%) as a white powder.

reactant | Triphenylphosphine | 51.5 mmoles, 13.5 g, 1.1 equiv. | C1(=CC=CC=C1)P(C1=CC=CC=C1)C1=CC=CC=C1 | C18H15P
reactant | [5-Cyclopropyl-3-(2-trifluoromethoxy-phenyl)-isoxazol-4-yl]-methanol | C1(CC1)C1=C(C(=NO1)C1=C(C=CC=C1)OC(F)(F)F)CO | C14H12F3NO3
reactant | carbon tetrabromide | 51.5 mmoles, 17.1 g, 1.1 equiv | C(Br)(Br)(Br)Br | CBr4
solvent | dichloromethane | 187.1 mL | ClCCl | CH2Cl2
product | 4-Bromomethyl-5-cyclopropyl-3-(2-trifluoromethoxy-phenyl)-isoxazole | 15 g, 88% | BrCC=1C(=NOC1C1CC1)C1=C(C=CC=C1)OC(F)(F)F | C14H11BrF3NO2
